US08877815B2
A suspension of 3-(4-bromo-phenyl)-2-(tert-butoxycarbonylamino-methyl)-propionic acid (496 mg, 1.385 mmol), K2CO3 (383 mg, 2.77 mmol) and BnBr (0.493 ml, 4.15 mmol) in DMF (3 ml) was allowed to stir under nitrogen for 60 hours. The reaction mixture was cooled, and brine was added. The product was extracted with EtOAc, washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (eluent: heptane/EtOAc=100:0 to 50:50) and then purified by RP-HPLC (XBridge Prep Phenyl OBD, H2O (0.1% NH4OH)/CH3CN) to give benzyl 2-(4-bromobenzyl)-3-(tert-butoxycarbonylamino)propanoate (44 mg); Retention time=1.67 minutes (condition B); MS (ES+)=348.0 (m-Boc+2).

reactant | 3-(4-bromo-phenyl)-2-(tert-butoxycarbonylamino-methyl)-propionic acid | 1.385 mmol, 496 mg | BrC1=CC=C(C=C1)CC(C(=O)O)CNC(=O)OC(C)(C)C | C15H20BrNO4
reactant | K2CO3 | 2.77 mmol, 383 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 4.15 mmol, 0.493 ml | C1=CC=C(C=C1)CBr | C7H7Br
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | benzyl 2-(4-bromobenzyl)-3-(tert-butoxycarbonylamino)propanoate | 44 mg | BrC1=CC=C(CC(C(=O)OCC2=CC=CC=C2)CNC(=O)OC(C)(C)C)C=C1 | C22H26BrNO4
